US04960946
Preparation of 2- Carbethoxy-3-(3-methoxy-3-methylbut-1-yl)cyclohexanone
A mixture of 3-Hydroxypyrone (obtained by the procedure of R. H. Wiley and C. H. Jorboe, J. Am. Chem. Soc.,78, 2398, (1956), 5.0 g, 0.045 mol) and ethyl 6-methoxy-6-methyl-2-heptenoate (8.9 g, 0.045 mol) were dissolved in toluene (15 mL) and heated in a sealed vessel for 7 hours at 200~C. After cooling 5% Pd/C (1.0 g) and methanol (50 mL) were added and the vessel was pressurized with hydrogen gas (200 psi). After stirring 20 hours the mixture was filtered and concentrated to the residue. The crude product decomposed on distillation. No further purification was attempted. NMR of crude material (CDC13)δ1.2(s,6H), 1.3(t,3H), 3.2(s,3H), 3.7(m,1H), 4.2m,2H); IR (neat) 2600-3800, (broad band), 2990, 2950, 1740, 1720, 1680, 1650, 1620, 1470, 1390, 1370, 1220, 1090 cm-1.

reactant | 3-Hydroxypyrone | OC=1C(OC=CC1)=O | C5H4O3
reactant | ethyl 6-methoxy-6-methyl-2-heptenoate | 0.045 mol, 8.9 g | COC(CCC=CC(=O)OCC)(C)C | C11H20O3
reactant | methanol | 50 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 2- Carbethoxy-3-(3-methoxy-3-methylbut-1-yl)cyclohexanone | C(=O)(OCC)C1C(CCCC1CCC(C)(C)OC)=O | C15H26O4
